US08022062B2
4-(3-Methyl-butyryl)-benzyl bromide:
Heat a mixture of 3,4′-dimethylbutyrophenone (3 g, 17.02 mmol), NBS (3.787 g, 16.18 mmol), and AIBN (70 mg, 0.425 mmol) in carbon tetrachloride (80 mL) for 14 h at reflux. Cool to ambient temperature and filter the mixture. Concentrate the filtrate in vacuo. Purify the crude mixture by chromatography on silica gel eluting sequentially with hexane and hexane/EtOAc (9:1) to provide the title compound as oil (2.802 g, 65%). GC-MS m/z: 255 (M+).

reactant | 3,4′-dimethylbutyrophenone | 17.02 mmol, 3 g | CC(CC(=O)C1=CC=C(C=C1)C)C | C12H16O
reactant | NBS | 16.18 mmol, 3.787 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | carbon tetrachloride | 80 mL | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | AIBN | 0.425 mmol, 70 mg | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
product | 4-(3-Methyl-butyryl)-benzyl bromide | 2.802 g, 65% | CC(CC(=O)C1=CC=C(CBr)C=C1)C | C12H15BrO
